US09315487B2
6-(((2S,4R)-1-Acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile (for a preparation see Intermediate 6) (1.62 g, 4.20 mmol), ethynyltrimethylsilane (17.5 ml, 124 mmol), triethylamine (23 ml, 165 mmol), bis(triphenylphosphine)palladium(II) chloride (0.590 g, 0.841 mmol) and copper(I) iodide (0.080 g, 0.420 mmol) were mixed in DMF (18 ml) and heated at 90° C. overnight. The reaction was concentrated in vacuo, diluted with water (30 ml), and extracted with DCM (3×30 ml). The organics were combined and dried (hydrophobic frit). The solution was concentrated in vacuo, and the residue purified by chromatography on a silica cartridge (100 g) eluting with an ethylacetate/cyclohexane gradient (0-75% over 14 CVs). The appropriate fractions were collected and the solvent evaporated in vacuo to give 6-(((2S,4R)-1-acetyl-2-methyl-6-((trimethylsilyl)ethynyl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile (881 mg) as a black foam, which was used without further purification. LCMS (formate), Rt 1.24 min, MH+ 402

reactant | 6-(((2S,4R)-1-Acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)NC1=NC=C(C#N)C=C1)C | C18H17BrN4O
reactant | ethynyltrimethylsilane | 124 mmol, 17.5 ml | C(#C)[Si](C)(C)C | C5H10Si
reactant | triethylamine | 165 mmol, 23 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.841 mmol, 0.590 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.420 mmol, 0.080 g | [Cu]I
product | 6-(((2S,4R)-1-acetyl-2-methyl-6-((trimethylsilyl)ethynyl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile | 881 mg | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C[Si](C)(C)C)NC1=NC=C(C#N)C=C1)C | C23H26N4OSi
